US05763611
II. Synthesis of Dihydro-7-(2-mercaptoethyl)-1-pyrindine-6,6-bisphosphonic acid
Dihydro-7-(2-acetylthioethyl)-1-pyrindine-6,6-bisphosphonic acid, tetraethyl ester (4.0 mmol) is added to 6N HCl (35 ml) and heated at reflux under nitrogen for 18 hours. The reaction mixture is then cooled and concentrated under reduced pressure. The product is obtained by recrystallizing from water and isopropanol.

reactant | Dihydro-7-(2-acetylthioethyl)-1-pyrindine-6,6-bisphosphonic acid, tetraethyl ester | 4.0 mmol | C(C)(=O)SCCC=1C(C=C2C=CCNC12)(P(OCC)(=O)OCC)P(OCC)(=O)OCC | C20H33NO7P2S
reactant | HCl | 6N, 35 ml | Cl | ClH
product | Dihydro-7-(2-mercaptoethyl)-1-pyrindine-6,6-bisphosphonic acid | SCCC=1C(C=C2C=CCNC12)(P(O)(=O)O)P(O)(=O)O | C10H15NO6P2S
